US08877759B2
3-amino-6-bromo-pyrazine-2-carbohydrazide (12.91 g, 55.64 mmol), 4-[[tert-butoxycarbonyl(methyl)amino]methyl]benzoic acid (14.76 g, 55.64 mmol) and triethylamine (12.39 g, 17.07 mL, 122.4 mmol) were suspended in N,N-dimethylformamide (200 mL) and stirred at ambient temperature for 30 minutes. A further 3-amino-6-bromo-pyrazine-2-carbohydrazide (3 g, 12.93 mmol) was added and left to stir for 18 hours at ambient temperature. The reaction mixture was concentrated in vacuo to remove most of the N,N-dimethylformamide. The residue was then diluted with ethyl acetate and water. The organic layer was separated and washed with saturated aqueous sodium bicarbonate solution followed by a brine wash. The organic extracts were dried over MgSO4, filtered and concentrated in vacuo to a yellow sticky solid. The solid was triturated with ethyl acetate to give a beige solid (this is the hydrazide starting material), the crude mother liquors were concentrated and purified by column chromatography (ISCO Companion XL, 330 g gold column) dry loaded and eluted with 30 to 70% ethyl acetate/petroleum ether to give a yellow sticky gum. This gum was then crystallised from petroleum ether to give tert-butyl 4-(2-(3-amino-6-bromopyrazine-2-carbonyl)hydrazinecarbonyl)benzyl(methyl)carbamate as a yellow powder (14.16 g, 53% yield). 1H NMR (400 MHz, DMSO-d6) δ 1.16-1.20 (m, 1H), 1.38-1.45 (br d, 9H), 2.80 (br s, 3H), 4.02-4.04 (m, 1H), 4.45 (s, 2H), 7.34 (d, 2H), 7.69 (br s, 2H), 7.89 (d, 2H), 8.44 (s, 1H) ppm.

reactant | 3-amino-6-bromo-pyrazine-2-carbohydrazide | 55.64 mmol, 12.91 g | NC=1C(=NC(=CN1)Br)C(=O)NN | C5H6BrN5O
reactant | 4-[[tert-butoxycarbonyl(methyl)amino]methyl]benzoic acid | 55.64 mmol, 14.76 g | C(C)(C)(C)OC(=O)N(C)CC1=CC=C(C(=O)O)C=C1 | C14H19NO4
reactant | triethylamine | 122.4 mmol, 17.07 mL, 12.39 g | C(C)N(CC)CC | C6H15N
reactant | 3-amino-6-bromo-pyrazine-2-carbohydrazide | 12.93 mmol, 3 g | NC=1C(=NC(=CN1)Br)C(=O)NN | C5H6BrN5O
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | tert-butyl 4-(2-(3-amino-6-bromopyrazine-2-carbonyl)hydrazinecarbonyl)benzyl(methyl)carbamate | 14.16 g, 53% yield | NC=1C(=NC(=CN1)Br)C(=O)NNC(=O)C1=CC=C(CN(C(OC(C)(C)C)=O)C)C=C1 | C19H23BrN6O4
